US04963564
2-[3-[(6-Bromohexyl)oxy]propyl]-3-(phenylmethoxy)pyridine
A mixture of 3-(phenylmethoxy)-2-pyridinepropanol (1.4 g), 1,6-dibromohexane (4 ml), 40% aqueous sodium hydroxide (4 ml) and TAB (100 mg) was stirred vigorously for 6 days. Water (10 ml) was added and the mixture was extracted with ether (3×10 ml). The ether extracts were washed with water and brine, dried and concentrated to an oil which was purified by FCC eluting with cyclohexane followed by cyclohexane/ethyl acetate (4:1) to give the title compound as an orange oil (1.0 g) t.l.c. (cyclohexane/ethyl acetate 4:1) Rf 0.25.

reactant | 3-(phenylmethoxy)-2-pyridinepropanol | 1.4 g | C1(=CC=CC=C1)COC=1C(=NC=CC1)CCCO | C15H17NO2
reactant | 1,6-dibromohexane | 4 ml | BrCCCCCCBr | C6H12Br2
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
solvent | Water | 10 ml | O | H2O
product | 2-[3-[(6-Bromohexyl)oxy]propyl]-3-(phenylmethoxy)pyridine | 1.0 g | BrCCCCCCOCCCC1=NC=CC=C1OCC1=CC=CC=C1 | C21H28BrNO2
